US06518257B1
(iii) Production of 4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-N-isopropyl[1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 4-(iii) using 4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-isopropyl[1,1′-biphenyl]-3-carboxamide (1.67 g) and pyridine hydrochloride (490 mg), the title compound (480 mg) was obtained as colorless powder crystals.

reactant | 4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-isopropyl[1,1′-biphenyl]-3-carboxamide | 1.67 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC(C)C | C42H41N3O2
reactant | pyridine hydrochloride | 490 mg | Cl.N1=CC=CC=C1
product | 4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-N-isopropyl[1,1′-biphenyl]-3-carboxamide | 480 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC(C)C | C23H27N3O2
